US07122666B2
43(ii) (±)-2-(4-Fluorophenyl)-4-(8-methyl-8-azabicyclo[3.2.1]oct-2-en-3-yl)-3-(pyridin-4-yl)-1H-pyrrole
In a similar manner to that described in Example 9(iii) above, 2-(4-fluorophenyl)-4-(3-hydroxy-8-methyl-8-azabicyclo[3.2.1]octan-3-yl)-3-(pyridin-4-yl)-1-triisopropylsilyl-1H-pyrrole (a mixture of isomers A and B, prepared as described in step 43(i) above] was subjected to dehydration using triethylsilane and trifluoroacetic acid followed by desilylation (deprotection) with tetrabutylammonium fluoride to give the title compound (yield 83%) as a white powder.

reactant | 2-(4-fluorophenyl)-4-(3-hydroxy-8-methyl-8-azabicyclo[3.2.1]octan-3-yl)-3-(pyridin-4-yl)-1-triisopropylsilyl-1H-pyrrole | FC1=CC=C(C=C1)C=1N(C=C(C1C1=CC=NC=C1)C1(CC2CCC(C1)N2C)O)[Si](C(C)C)(C(C)C)C(C)C | C32H44FN3OSi
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (±)-2-(4-Fluorophenyl)-4-(8-methyl-8-azabicyclo[3.2.1]oct-2-en-3-yl)-3-(pyridin-4-yl)-1H-pyrrole | yield 83% | FC1=CC=C(C=C1)C=1NC=C(C1C1=CC=NC=C1)C1=CC2CCC(C1)N2C | C23H22FN3
